US05246948
Synthesis of 3-(phthalimidomethylthio)pyridine
To a solution of 1.00 g (5.49 mmol) of 3-(dimethylaminocarbonylthio)pyridine in 50 ml of methanol, 5.49 ml (5.49 mmol) of a 1N aqueous solution of sodium hydroxide was added. The mixture was heated at 60° C. for 1 hour with stirring. After cooling, the solvent was distilled off. The residue was dissolved in ethanol and dried. The solvent was distilled off. The residue thus obtained and 1.58 g of (6.59 mmol) of (N-bromomethyl)phthalimide were suspended in 50 ml of ethanol, and 0.92 ml (6.59 mmol) of triethylamine was added. The mixture was stirred at room temperature for 4 hours. The solvent was distilled off, and the residue was dissolved in chloroform, washed with water and dried. Then the solvent was distilled off. The residue was purified by column chromatography (eluent: hexane/ethyl acetate=1:1) to obtain powder. The powder thus obtained was washed with ether and dried to obtain 1.20 g of the desired compound (yield: 80.9%, colorless powder).

reactant | 3-(dimethylaminocarbonylthio)pyridine | 5.49 mmol, 1.00 g | CN(C(=O)SC=1C=NC=CC1)C | C8H10N2OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 6.59 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 50 ml | CO | CH4O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(phthalimidomethylthio)pyridine | 1.20 g, yield: 80.9% | C1(C=2C(C(N1CSC=1C=NC=CC1)=O)=CC=CC2)=O | C14H10N2O2S
